US08076454B2
3-Amino-2-methylbenzoic acid (6.16 g) was heated at reflux for 30 minutes in concentrated HBr. The mixture was cooled to 0° C. and treated with a solution of NaNO2 at 0° C. (2.8 g in 5.6 mL H2O). The resultant diazonium salt solution was slowly added to a preheated (60-70° C.) solution of CuBr (3.8 g) in 3.2 mL concentrated HBr. After the addition, the mixture was stirred overnight at room temperature and filtered. The recovered filter cake was washed first with water and then with 10% HCl, and dried in air to yield 6.93 g of 3-bromo-2-methylbenzoic acid as a light purple powdery solid. This material was dissolved in ethyl acetate, washed twice with 5% HCl, dried over Na2SO4, and recrystallized from 4:1 hexanes:ethyl acetate first at room temperature and then under refrigeration. 1H NMR (DMSO, 200 MHz), δ (ppm): 7.72 (dd, 2H), 7.2 (t, 1H), 2.5 (s, 3H).

reactant | 3-Amino-2-methylbenzoic acid | 6.16 g | NC=1C(=C(C(=O)O)C=CC1)C | C8H9NO2
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | HBr | Br | BrH
reactant | HBr | 3.2 mL | Br | BrH
solvent | H2O | 5.6 mL | O | H2O
product | 3-bromo-2-methylbenzoic acid | 6.93 g | BrC=1C(=C(C(=O)O)C=CC1)C | C8H7BrO2
